US08048887B2
Ethyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)-6-(methylsulfonamido)benzofuran-5-yl)benzoate
Methanesulfonyl chloride (303 μL, 3.88 mmol) was added to a stirring solution of ethyl 3-(6-amino-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoate (1.40 g, 3.24 mmol) in pyridine (32 mL) at 25° C. It was allowed to stir overnight at rt. The reaction was concentrated and was purified on silica gel (BIOTAGE®, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the titled compound (1.01 g, 61%). LC-MS retention time: 1.53 min; m/z (MH+): 511. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | Methanesulfonyl chloride | 3.88 mmol, 303 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl 3-(6-amino-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoate | 3.24 mmol, 1.40 g | NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C=1C=C(C(=O)OCC)C=CC1 | C25H21FN2O4
solvent | pyridine | 32 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)-6-(methylsulfonamido)benzofuran-5-yl)benzoate | 1.01 g, 61% | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C(=C2)NS(=O)(=O)C)C=2C=C(C(=O)OCC)C=CC2 | C26H23FN2O6S
